US08420858B2
Synthesis of 5-methoxyacetylamino-2,4,6-triiodoisophthalic acid (2,3-dihydroxypropyl)amide chloride (Formula 4)
5-amino-2,4,6-triiodoisophthalic acid dichloride (13.7 kg, 23 mol) was dissolved in dimethylacetamide (17.2 kg) and the mixture was cooled to 15° C. Methoxyacetyl chloride (3.74 kg, 34.5 mol) was added dropwise thereto for 2 hours, and then the mixture was stirred for 15 hours. After confirming the disappearance of the starting material by HPLC analysis for reaction, methylene chloride (45.7 kg) and water (11.5 kg) were subsequently added to the reaction mixture upon being stirred, and then the stirring was stopped and the layers became separated. The obtained organic layer was washed with aqueous sodium bicarbonate solution and concentrated by distillation under reduced pressure. To a solution of the obtained concentrate dissolved in dimethylacetamide (43.1 kg), triethylamine (1.95 kg, 19.32 mol) was added and then a solution of 2,3-dihydroxypropylamine (1.47 kg, 16.13 mol) dissolved in dimethylacetamide (10.78 kg) was added dropwise thereto for 5 hours with maintaining 0 to 5° C. After additional 3 hours with stirring, the reaction mixture was concentrated by distillation under reduced pressure and to the concentrate, methylene dichloride (213.33 kg) was added dropwise for 5 hours to form solid. The solid was filtered and the title compound was obtained as a white solid (10.98 kg, yield 66.1%).

reactant | 5-amino-2,4,6-triiodoisophthalic acid dichloride | 23 mol, 13.7 kg | NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C8H2Cl2I3NO2
reactant | Methoxyacetyl chloride | 34.5 mol, 3.74 kg | COCC(=O)Cl | C3H5ClO2
reactant | triethylamine | 19.32 mol, 1.95 kg | C(C)N(CC)CC | C6H15N
reactant | 2,3-dihydroxypropylamine | 16.13 mol, 1.47 kg | OC(CN)CO | C3H9NO2
reactant | dimethylacetamide | 17.2 kg | CC(=O)N(C)C | C4H9NO
reactant | dimethylacetamide | 10.78 kg | CC(=O)N(C)C | C4H9NO
solvent | water | 11.5 kg | O | H2O
solvent | methylene chloride | 45.7 kg | C(Cl)Cl | CH2Cl2
product | 5-methoxyacetylamino-2,4,6-triiodoisophthalic acid (2,3-dihydroxypropyl)amide chloride | [Cl-].OC(CNC(C1=C(C(C(=O)O)=C(C(=C1I)NC(COC)=O)I)I)=O)CO | InChI=1S/C14H15I3N2O7.ClH/c1-26-4-6(22)19-12-10(16)7(13(23)18-2-5(21)3-20)9(15)8(11(12)17)14(24)25;/h5,20-21H,2-4H2,1H3,(H,18,23)(H,19,22)(H,24,25);1H/p-1
